US08957064B2
4-(2-methyl-6-thiophen-3-yl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde
This compound was prepared in a manner according to 4-(6-thiophen-3-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde by using 5-methyl-1,2,4-triazol-3-amine in the first step.

reactant | 4-(6-thiophen-3-yl-pyrazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde | S1C=C(C=C1)C=1C(=NC=2N(C1)N=CC2)C2=CC=C(C=O)C=C2 | C17H11N3OS
reactant | 5-methyl-1,2,4-triazol-3-amine | CC1=NC(=NN1)N | C3H6N4
product | 4-(2-methyl-6-thiophen-3-yl-[1,2,4]triazolo[1,5-a]pyrimidin-5-yl)-benzaldehyde | CC1=NN2C(N=C(C(=C2)C2=CSC=C2)C2=CC=C(C=O)C=C2)=N1 | C17H12N4OS
